US08071768B2
a. Methanesulfonic acid 3-{4-[1-(4-isopropoxy-phenylcarbamoyl)-piperidin-4-yl]-quinazolin-6-yl}-prop-2-ynyl ester
A solution of 4-[6-(3-hydroxy-prop-1-ynyl)-quinazolin-4-yl]-piperidine-1-carboxylic acid (4-isopropoxy-phenyl)-amide (816 mg, 1.84 mmol), as prepared in Example 12, and DIEA (350 μL, 2.12 mmol) in DCM (13 mL) was treated with methanesulfonyl chloride (157 μL, 2.02 mmol) dropwise over 1 min with stirring at 0° C. under positive argon pressure. The ice bath was immediately removed, and the reaction was stirred at rt for 1 h 15 min. Flash chromatographic purification of the crude reaction mixture (1:9 hex/EtOAc→EtOAc) afforded the title compound (896 mg, 93%). 1H-NMR (300 MHz, CDCl3) δ 9.27 (s, 1H), 8.31 (d, 1H), 8.04 (d, 1H), 7.89 (dd, 1H), 7.26 (m, 2H), 6.85 (m, 2H), 6.34 (br s, 1H), 5.15 (s, 2H), 4.49 (heptet, 1H), 4.33-4.23 (m, 2H), 3.73 (m, 1H), 3.25-3.11 (m, 2H), 3.18 (s, 3H), 2.22-1.94 (m, 4H), 1.32 (d, 6H). LC/MS (ESI): calcd mass 522.2, found 523.3 (MH)+.

reactant | 4-[6-(3-hydroxy-prop-1-ynyl)-quinazolin-4-yl]-piperidine-1-carboxylic acid (4-isopropoxy-phenyl)-amide | 1.84 mmol, 816 mg | C(C)(C)OC1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC=C(C=C12)C#CCO | C26H28N4O3
reactant | DIEA | 2.12 mmol, 350 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 2.02 mmol, 157 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 13 mL | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 3-{4-[1-(4-isopropoxy-phenylcarbamoyl)-piperidin-4-yl]-quinazolin-6-yl}-prop-2-ynyl ester | 896 mg, 93% | C(C)(C)OC1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC=C(C=C12)C#CCOS(=O)(=O)C | C27H30N4O5S
